US08614206B2
Trifluoroacetic acid (20 mL) was added to a solution of tert-butyl 4-azido-5-hydroxyazepane-1-carboxylate (7.43 g, 29.0 mmol) in DCM (70 mL) and the mixture heated behind a blast shield at 35° C. for 4 hr. The solvents were removed under reduced pressure and the residue re-dissolved in MeOH and passed through an SCX column, washing with DCM and MeOH and eluting with 3-10% 7 N ammonia in MeOH/DCM to give 5-azidoazepan-4-ol as a yellow oil (4.38 g, 28.0 mmol) which was dissolved in dry DMSO (100 mL). 5-Chloro-1-methyl-4-nitro-1H-pyrazole from Example 1 (5.20 g, 32.2 mmol) and potassium fluoride (6.51 g, 112 mmol) were added. The mixture was heated at 70° C. for 16 hr, allowed to cool to room temperature, poured into water (1000 mL) and extracted into EtOAc (4×250 mL). The combined organic layers were passed through a phase separation cartridge and concentrated under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave 5-azido-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-ol as a yellow gum (7.27 g, 77% over two steps). 1H NMR (400 MHz, CDCl3) δ 8.04 (s, 1H), 3.94-3.66 (m, 4H), 3.65 (td, J=9.7, 3.8 Hz, 1H), 3.44-3.18 (m, 4H), 2.50 (d, J=2.8 Hz, 1H), 2.24-2.12 (m, 2H), 2.02-1.89 (m, 2H).

reactant | Trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-azido-5-hydroxyazepane-1-carboxylate | 29.0 mmol, 7.43 g | N(=[N+]=[N-])C1CCN(CCC1O)C(=O)OC(C)(C)C | C11H20N4O3
solvent | DCM | 70 mL | C(Cl)Cl | CH2Cl2
product | 5-azidoazepan-4-ol | 28.0 mmol, 4.38 g | N(=[N+]=[N-])C1C(CCNCC1)O | C6H12N4O
